US07754747B2
Step 2: 4-[({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]isophthalic acid.
A mixture of dimethyl 4-[({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]isophthalate (155.1 mg, 0.263 mmol), prepared in the previous step, and 1 N NaOH (1.55 mL, 1.55 mmol) in 100 mL of THF, plus 100 mL of methanol, plus 10 mL of water was refluxed under nitrogen for 24 h. By LC/MS starting material remained. An additional 1.55 mL (1.55 mmol) of 1 N NaOH was added and the reaction refluxed for an additional 24 h. After cooling to room temperature the reaction was filtered and then acidified by the addition of 4 mL of 1 N HCl. The reaction was concentrated under reduced pressure to remove most of the THF and methanol. The solid present was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound (122.7 mg, 83%) as a white solid, mp 285-287° C. Elemental Analysis for C34H27NO7. 0.11 H2O Calc'd: C, 72.46; H, 4.87; N, 2.49. Found: C, 71.71; H, 4.92; N, 2.35.

reactant | dimethyl 4-[({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]isophthalate | 0.263 mmol, 155.1 mg | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C=1C=C3C=CC(=CC3=CC1)OCC1=C(C=C(C(=O)OC)C=C1)C(=O)OC)C=CC=C2 | C36H31NO7
reactant | NaOH | 1.55 mmol, 1 N, 1.55 mL | [OH-].[Na+]
reactant | methanol | 100 mL | CO | CH4O
reactant | water | 10 mL | O | H2O
reactant | NaOH | 1.55 mmol, 1 N, 1.55 mL | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-[({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]isophthalic acid | 122.7 mg, 83% | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C=1C=C3C=CC(=CC3=CC1)OCC1=C(C=C(C(=O)O)C=C1)C(=O)O)C=CC=C2 | C34H27NO7
